US07923561B2
[5-(2-Chloro-phenyl)-quinolin-2-yl]-(R)-indan-1-yl-amine
The title compound, MS: m/e=371.0 (M+H+), was prepared in accordance with the general method of example 63 from 5-iodo-2-chloroquinoline, (R)-1-aminoindane and 2-chlorophenyl-boronic acid.

reactant | 5-iodo-2-chloroquinoline | IC1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClIN
reactant | (R)-1-aminoindane | N[C@@H]1CCC2=CC=CC=C12 | C9H11N
reactant | 2-chlorophenyl-boronic acid | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
product | [5-(2-Chloro-phenyl)-quinolin-2-yl]-(R)-indan-1-yl-amine | ClC1=C(C=CC=C1)C1=C2C=CC(=NC2=CC=C1)N[C@@H]1CCC2=CC=CC=C12 | C24H19ClN2
